US07642278B2
Synthesis of (3S)-3-Methylpiperazine-1-carboxylic acid tert-butyl ester
To a stirred solution of (2S)-2-methylpiperazine (2 equivalents) in dichloromethane at −10° C., di-tert-butyl dicarbonate (1 equivalent) was added. The mixture was stirred at −10° C. for two minutes, and subsequently quenched with saturated aqueous NaHCO3. The two phases were separated, and the organic layer was extracted with methylene chloride. The organic extracts were collected, dried over Na2SO4, and concentrated to give the desired product. LC/MS (m/z) 201.0 (MH +), Rt 1.67 minutes.

reactant | (2S)-2-methylpiperazine | 2 equivalents | C[C@@H]1NCCNC1 | C5H12N2
reactant | di-tert-butyl dicarbonate | 1 equivalent | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3S)-3-Methylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C | C10H20N2O2
